US06117881
1-(3,4-methylenedioxyphenyl)-6-fluoro-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for Intermediate 1 with 5-fluorotryptamine (1.59 g, 8.9 mmol), 3,4-methylenedioxybenzaldehyde (1.47 g, 1.1 equiv.) and TFA (1.4 mL, 2 equiv.) to give the title compound (2.34 g, 85%) as white crystals.

reactant | 5-fluorotryptamine | 8.9 mmol, 1.59 g | FC1=CC=C2NC=C(CCN)C2=C1 | C10H11FN2
reactant | 3,4-methylenedioxybenzaldehyde | 1.47 g, 1.1 equiv. | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | TFA | 1.4 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3,4-methylenedioxyphenyl)-6-fluoro-2,3,4,9-tetrahydro-1H-β-carboline | 2.34 g, 85% | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC(=CC=C3NC12)F | C18H15FN2O2
